### ISSUE TITLE
`unusedSimpArgs` linter false positive

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#9909]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In this code:
```lean
theorem ByteArray.append_eq_copySlice {a b : ByteArray} :
  a ++ b = b.copySlice 0 a a.size b.size false := rfl

@[simp]
theorem ByteArray.size_data {a : ByteArray} :
  a.data.size = a.size := rfl

@[simp]
theorem ByteArray.data_append {l l' : ByteArray} :
    (l ++ l').data = l.data ++ l'.data := by
  simp [append_eq_copySlice, copySlice, ← ByteArray.size_data, ← Array.append_assoc]
```

we get a linter suggestion on the last line:

```
This simp argument is unused:
  ← Array.append_assoc

Hint: Omit it from the simp argument list.
  simp [append_eq_copySlice, copySlice, ← ByteArray.size_data, ← Array.append_assoc]

Note: This linter can be disabled with `set_option linter.unusedSimpArgs false`
```

However, accepting the suggestion leads to the proof no longer going through.

### Steps to Reproduce

1. [lean4web link](https://live.lean-lang.org/#project=lean-nightly&codez=IYFxCcEsCMFcQKYAIDaCAeIC6SBCBPRAQXHGHwCgKQALBAe3AQFs9CESz8A6YABz4IAdgBMA+ggCOYgMb0++AMoAbSDOQBvYEmhIAXG2KlyAX30UkSbQGprOpAF4d3OQpVrkABitXuAZ0gAL2RofyDkADNgZT9kPSdwCOUqAAEUAOY+LGo6RhZDDmMeAOCxEVBtLX0CzlNzS2BucpBGkuQnVvD9BKTU9MhM7NoGJlYCIy4mirF+QVEkDWUkZQByavHCrjM9C0skAAol22WVgEoplsdli5s7VZvunUpLDL5UWeFxKVl5JVV1AA0SFcfw8QMACYQ1IphUrNYAQpC1HgfUQzPx+egyLBAA)

**Expected behavior:** No linter warning

**Actual behavior:** See above

### Versions

`Lean 4.23.0-nightly-2025-08-13` on live.lean-lang.org

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
It works to write

```
theorem ByteArray.append_eq_copySlice {a b : ByteArray} :
  a ++ b = b.copySlice 0 a a.size b.size false := rfl

@[simp]
theorem ByteArray.size_data {a : ByteArray} :
  a.data.size = a.size := rfl

@[simp]
theorem ByteArray.data_append {l l' : ByteArray} :
    (l ++ l').data = l.data ++ l'.data := by
  simp [append_eq_copySlice, copySlice, ← ByteArray.size_data, - Array.append_assoc]
```

Adding the reverse direction also removes the other. It is hard to tell when this is actually needed, but the linter should probably give a note that this may be the case.
